US05096890
3,4-Methylenedioxyphenethyl alcohol
3,4-Methylenedioxyphenylacetic acid (18.0 g) was added portionwise over 30 minutes to a stirred, ice-cooled suspension of lithium aluminium hydride (4.0 g) in ether (400 ml) and the mixture was stirred at room temperature for two hours, quenched by the cautious addition of saturated aqueous ammonium chloride solution and filtered. The filtrate was washed with 10% aqueous sodium carbonate solution, dried over magnesium sulphate and evaporated to give the title compound as a pale yellow oil (15.01 g, 90%), which was characterised by its 1H n.m.r. spectrum.

reactant | 3,4-Methylenedioxyphenylacetic acid | 18.0 g | C1OC=2C=C(C=CC2O1)CC(=O)O | C9H8O4
reactant | lithium aluminium hydride | 4.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 400 ml | CCOCC | C4H10O
product | 3,4-Methylenedioxyphenethyl alcohol | 15.01 g, 90% | C1OC=2C=C(CCO)C=CC2O1 | C9H10O3
